### PR TITLE
[Merged by Bors] - chore(*): use `#s` notation here and there

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 1]
```diff
@@ -857,10 +856,9 @@ end Finite
 
 variable [Fintype G] {x : G} {n : ℕ}
 
-/-- See also `Nat.card_addSubgroupZPowers`. -/
-@[to_additive "See also `Nat.card_subgroup`."]
+/-- See also `Nat.card_zpowers`. -/
+@[to_additive "See also `Nat.card_zmultiples`."]
```
Comment (urkud) [inline Mathlib/GroupTheory/OrderOfElement.lean:860]: Also fix the docstrings here.

File: Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean [hunk 2]
```diff
@@ -208,7 +208,7 @@ theorem inv_mem_inv (ha : a ∈ s) : a⁻¹ ∈ s⁻¹ :=
   mem_image_of_mem _ ha
 
 @[to_additive]
-theorem card_inv_le : s⁻¹.card ≤ s.card :=
+theorem card_inv_le : #s⁻¹ ≤ s.card :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Pointwise/Finset/Basic.lean:211]:
```suggestion
theorem card_inv_le : #s⁻¹ ≤ #s :=
```

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 3]
```diff
@@ -716,9 +717,7 @@ variable [Monoid G] {x : G} {n : ℕ}
 
 @[to_additive]
 theorem sum_card_orderOf_eq_card_pow_eq_one [Fintype G] [DecidableEq G] (hn : n ≠ 0) :
-    (∑ m ∈ divisors n,
-        (Finset.univ.filter fun x : G => orderOf x = m).card) =
-      (Finset.univ.filter fun x : G => x ^ n = 1).card := by
+    (∑ m ∈ divisors n, #{x : G | orderOf x = m}) = #{x : G | x ^ n = 1} := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/OrderOfElement.lean:720]: While you're at it,
```suggestion
    ∑ m ∈ divisors n, #{x : G | orderOf x = m} = #{x : G | x ^ n = 1} := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

**Comment by urkud** [comment]
bors merge
